* C:\Users\Male\Desktop\TC\TP2\EJ1\simulacion_pcb\Circuito 1\Caso 2\ej1_circ1_caso2.asc
R3 N001 0 25k
R4 vout 0 100k
V1 0 vee 15
V2 vcc 0 15
v3 V1 0 AC 1 Rser=50
R1 Vin N001 25k
R2 vout N001 2.5k
XU2 0 N001 vcc vee vout LM324
R5 V1 0 10Meg
C1 V1 0 12p
R7 vout 0 10Meg
C3 vout 0 12p
R8 Vin 0 10Meg
C4 Vin 0 12p
R6 Vin V1 27k
.ac dec 10 1 100000000000
.lib C:\Users\Male\Desktop\TC\TP2\EJ1\simulacion_pcb\Circuito 1\Caso 1\LM324.mod.txt
.backanno
.end
